US05635510
1.3.2 Synthesis of 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol
A solution of LiAlH4 (450 mL, 1M in THF, 450 mmol) was cooled in a ice/acetone bath (-10° C.). A solution of H2SO4 (99.999%) (12 mL, 225.3 mmol) in THF (35 mL) was added dropwise. (Use caution when adding the H2SO4 to the THF and also when adding the H2SO4 /THF solution to the LiA1H4) After the addition was complete, the slurry was stirred for 1 h in an ice bath. The slurry was allowed to warm to ambient temperature and stir for 2 h. A solution of [3-(3,4-dichloro-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester (23.2 g, 73.4 mmol) in THF (70 mL) was added dropwise. The slurry was heated to 45°-50° C. for 36 h. The slurry was cooled in an ice bath and a solution of THF:H2O (1:1, 70 mL) was added dropwise. The slurry was filtered and the solids were rinsed with THF and dichloromethane. The salts were stirred with THF:H2 0:15% NaOH (1 L :70 mL :20 mL) for 2 h. The slurry was filtered and the combined filtrates were concentrated in vacuo to obtain a residue. The residue was dissolved in dichloromethane and the solution was dried over MgSO4, filtered, and concentrated in vacuo to obtain a residue. The residue was recrystallized from diethyl ether to give the title compound:

reactant | LiAlH4 | 450 mmol, 1M, 450 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2SO4 | 225.3 mmol, 12 mL | OS(=O)(=O)O | H2O4S
reactant | H2SO4 THF | OS(=O)(=O)O.C1CCOC1
reactant | [3-(3,4-dichloro-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | 73.4 mmol, 23.2 g | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF H2O | 70 mL | C1CCOC1.O
product | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
